US04477369
A solution of 4-pentyl-4'-bromobiphenyl (2.8 g, 0.0092 mol) dissolved in tetrahydrofuran (50 ml) was reacted with Mg (0.22 g, 0.0092 mol) in nitrogen current to obtain 4-pentyl-4'-biphenylmagnesium bromide. The reaction liquid was cooled to 0° C. and to this liquid was added a tetrahydrofuran solution (50 ml) of 4-pentylcyclohexylcyclohexanone (2.3 g, 0.0092 mol). The mixture was refluxed at 50° C. for 2 hours and 3N hydrochloric acid (50 ml) was then added, followed by extracting the product with toluene (200 ml), washing with water, distilling off the solvent, adding potassium hydrogen sulfate (4 g) and dehydrating at 200° C. for 2 hours in nitrogen atmosphere. After cooling, toluene (200 ml) was added and potassium hydrogen sulfate was filtered off, followed by washing with water till the washing water became neutral, dehydrating with anhydrous sodium sulfate, distilling off the solvent and recrystallizing from toluene to obtain crystals of 4-pentyl-4'-[4-(trans-4-pentylcyclohexyl)cyclohexen-1-yl]biphenyl. This product (1.4 g, 0.0031 mol) was dissolved in n-heptane (200 ml) and to the solution was added Raney Ni (0.7 g), followed by catalytic reduction under ordinary pressure at 60° C. The reaction was traced by gas chromatography, and when the raw material disappeared, that is, after 12 hours, reduction was completed. Since the resulting material was a mixture of cis-form and trans-form substances, it was recrystallized from toluene to take out the trans-form substance, that is, an objective product, 4-pentyl-4'-[trans-4-(trans-4-pentylcyclohexyl)cyclohexyl]-biphenyl. Yield: 0.5 g (0.001 mol). This product had such a very broad liquid-crystalline temperature range as a C-Sm point of room temperature or lower and a Sm-I point of 300° C. or higher.

reactant | 4-pentylcyclohexylcyclohexanone | 0.0092 mol, 2.3 g | C(CCCC)C1CCC(CC1)C1C(CCCC1)=O | C17H30O
reactant | hydrochloric acid | 3N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-pentyl-4'-[4-(trans-4-pentylcyclohexyl)cyclohexen-1-yl]biphenyl | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CCC(CC1)[C@@H]1CC[C@H](CC1)CCCCC | C34H48
